US08222416B2
To a solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-2-yl)-ethanol (2.5 g, 6.5 mmol) in dichloromethane (100 mL) at 25° C. was added Dess-Martin periodinane (9.6 g, 23 mmol). The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (100 mL). The mixture was extracted with dichloromethane (50 mL), washed with a saturated aqueous sodium bicarbonate solution (3×100 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-2-yl)-ethanone (2.1 g, 84%) as a light yellow solid: LC/MS m/e calcd for C20H20N2O4S [M+H]+ 385.46, observed 385.1.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-2-yl)-ethanol | 6.5 mmol, 2.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2OCCCC2)O | C20H22N2O4S
reactant | Dess-Martin periodinane | 23 mmol, 9.6 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-2-yl)-ethanone | 2.1 g, 84% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2OCCCC2)=O | C20H20N2O4S
